US04559354
A solution of 13.2 g of crude 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[4-(4-acetyl-1,5-dimethyl-1H-imidazol-2-yl)-phenoxy]-2-propanol in 140 ml of methanol is hydrogenated with the addition of 1.3 g of palladium-on-carbon catalyst until 1 molar equivalent of hydrogen has been absorbed. After filtration and evaporation of the solvent, an oil is obtained which, after recrystallising twice from ethanol, yields 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(4-acetyl-1,5-dimethyl-1H-imidazol-2-yl)-phenoxy]-2-propanol having a melting point of 128°-130°.

reactant | 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[4-(4-acetyl-1,5-dimethyl-1H-imidazol-2-yl)-phenoxy]-2-propanol | 13.2 g | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)C=1N(C(=C(N1)C(C)=O)C)C)O)CCOC1=CC(=C(C=C1)O)C(N)=O | C32H36N4O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 140 ml | CO | CH4O
catalyst | palladium-on-carbon | 1.3 g | [Pd] | Pd
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(4-acetyl-1,5-dimethyl-1H-imidazol-2-yl)-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)C=2N(C(=C(N2)C(C)=O)C)C)O)C=CC1O | C25H30N4O6
